US05731315
A. 5-Chlorothieno[3,2-b]pyridine-2-sulfonic acid [1-(5-cyanothiophen-3-ylmethyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide
The title compound is prepared from 4-(3-(S)-amino-2-oxo-pyrrolidin-1-ylmethyl)-thiophene-2carbonitrile hydrochloride as described in EXAMPLE 1, Part E using 5-chlorothieno[3,2-b]pyridine-2-sulfonyl chloride in place of benzo[b]thiophene-2-sulfonyl chloride. The product is triturated with Et2O/CH2Cl2 /hexanes to give a white solid.

reactant | 4-(3-(S)-amino-2-oxo-pyrrolidin-1-ylmethyl)-thiophene-2carbonitrile hydrochloride | Cl.N[C@@H]1C(N(CC1)CC=1C=C(SC1)C#N)=O
reactant | 5-chlorothieno[3,2-b]pyridine-2-sulfonyl chloride | ClC1=CC=C2C(=N1)C=C(S2)S(=O)(=O)Cl | C7H3Cl2NO2S2
product | 5-Chlorothieno[3,2-b]pyridine-2-sulfonic acid [1-(5-cyanothiophen-3-ylmethyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide | C(#N)C1=CC(=CS1)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=NC(=CC=C2S1)Cl)=O | C17H13ClN4O3S3
